* NMOS Transfer Characteristics (Id-Vgs) - Sky130
.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "/home/gnimm05/pdks/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

XM1 D G 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.0

VDS D 0 1.8V
VGS G 0 0V

.control
  dc VGS 0 1.8 0.005
  let id = -I(VDS)
  wrdata nmos_transfer_data.txt id
.endc
.end